US08536197B2
(119a) tert-Butyl 3-[(2E)-2-buten-1-yloxy]-4,4-dimethoxypiperidine-1-carboxylate
The same operation as in Example (90a) was performed using tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate (5.2 g, 20 mmol), sodium hydride (55% content, 1.31 g, 30 mmol), crotyl chloride (3.63 g, 40 mmol) and DMF (50 mL). The residue was purified by column chromatography (elution solvent: hexane/ethyl acetate=10/1, 4/1, 2/1) to obtain 5.05 g of the title compound as a colorless oily substance (80%).

reactant | tert-butyl 3-hydroxy-4,4-dimethoxypiperidine-1-carboxylate | 20 mmol, 5.2 g | OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C12H23NO5
reactant | sodium hydride | 30 mmol, 1.31 g | [H-].[Na+]
reactant | crotyl chloride | 40 mmol, 3.63 g | C(C=CC)Cl | C4H7Cl
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | tert-Butyl 3-[(2E)-2-buten-1-yloxy]-4,4-dimethoxypiperidine-1-carboxylate | 5.05 g | C(\C=C\C)OC1CN(CCC1(OC)OC)C(=O)OC(C)(C)C | C16H29NO5
